US04584295
A mixture of 24.9 g (0.2 mol) of O-ethylisourea hydrochloride and 21.5 g (0.14 mol) of methyl 4-chloroacetoacetate in 100 ml of methanol is treated at 0°-5° C. during 10 minutes with a solution of 7.55 g (0.33 mol) of sodium in 100 ml of methanol. The mixture is stirred at 0° C. for 2 hours and at room temperature for 18 hours and the solvent is then removed by evaporation under reduced pressure. The residue is dissolved in 300 ml of water and the solution is adjusted to a pH-value of 6. The resulting crystallline product is filtered off, washed with diethyl ether and dried at 40° C. In this manner there is obtained 2-ethoxy-4-chloromethyl-6-hydroxy-pyrimidine, m.p. 157°-159° C. By back-extracting the aqueous filtrate three times with 150 ml of chloroform each time there is obtained an additional amount of this product, m.p. 159°-161° C.

reactant | O-ethylisourea hydrochloride | 0.2 mol, 24.9 g | Cl.C(C)OC(N)=N
reactant | methyl 4-chloroacetoacetate | 0.14 mol, 21.5 g | ClCC(CC(=O)OC)=O | C5H7ClO3
reactant | sodium | 0.33 mol, 7.55 g | [Na] | Na
solvent | methanol | 100 ml | CO | CH4O
solvent | methanol | 100 ml | CO | CH4O
product | 2-ethoxy-4-chloromethyl-6-hydroxy-pyrimidine | C(C)OC1=NC(=CC(=N1)CCl)O | C7H9ClN2O2
